US06433009B1
3-Tert-butylsulfamoyl-benzenesulfonyl Chloride
A solution of 1.46 grams (20 mmole) of t-butylamine and 2.02 grams (20 mmole) of triethylamine in tetrahydrofuran was added dropwise to a solution of 5.5 grams (20 mmole) of 1,3-benzenedisulfonyl chloride in tetrahydrofuran. The reaction was stirred at room temperature for 2 hours. The solvent was evaporated in vacuo. The residue was purified on silica gel eluting with methylene chloride to give 3.86 grams of the titled compound as an oil.

reactant | t-butylamine | 20 mmole, 1.46 grams | C(C)(C)(C)N | C4H11N
reactant | triethylamine | 20 mmole, 2.02 grams | C(C)N(CC)CC | C6H15N
reactant | 1,3-benzenedisulfonyl chloride | 20 mmole, 5.5 grams | C1(=CC(=CC=C1)S(=O)(=O)Cl)S(=O)(=O)Cl | C6H4Cl2O4S2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 3-Tert-butylsulfamoyl-benzenesulfonyl Chloride | 3.86 grams | C(C)(C)(C)NS(=O)(=O)C=1C=C(C=CC1)S(=O)(=O)Cl | C10H14ClNO4S2
